US05733935
1.0 g of N-methoxy-2,4-dichlorobenzamide, 0.75 g of potassium carbonate and 0.65 g of propargyl bromide were added to 10 ml of N,N-dimethylformamide, and the mixture was stirred for 3 hours. After completion of the reaction, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried, concentrated and purified by silica gel column chromatography to obtain 0.35 g of propargyl N-methoxy-2,4-dichlorobenzimidate.

reactant | N-methoxy-2,4-dichlorobenzamide | 1.0 g | CONC(C1=C(C=C(C=C1)Cl)Cl)=O | C8H7Cl2NO2
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.65 g | C(C#C)Br | C3H3Br
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | propargyl N-methoxy-2,4-dichlorobenzimidate | 0.35 g | CON=C(C1=C(C=C(C=C1)Cl)Cl)OCC#C | C11H9Cl2NO2
